US07659284B2
1 M potassium t-butoxide (50.6 mL) was added dropwise to 4-nitrophenol Compound 35a (7.03 g, 50.6 mmol) in DMF (100 mL) at 0° C. After 20 mins, 3-chloromethyl-1-methylpiperidine hydrochloride Compound 35b (9.31 g, 50.6 mmol, neutralized prior to addition) in DMF (10 mL) was added to the reaction mixture. The reaction was then heated at 100° C. for 5 days. The cooled reaction was diluted with 1 N NaOH and washed with ethyl ether. The aqueous layer was then adjusted to pH 5 with NaH2PO4 and extracted with ethyl acetate. After drying over MgSO4, the organic layer was evaporated down to give 6.0 g of 1-methyl-3-(4-nitro-phenoxymethyl)-piperidine Compound 35c. Using the procedure of Example 1, Compound 35c was used in place of Compound 1n3 and carried forward to prepare 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine Compound 35d.

reactant | potassium t-butoxide | 1 M, 50.6 mL | CC(C)([O-])C.[K+]
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 3-chloromethyl-1-methylpiperidine hydrochloride | Cl.ClCC1CN(CCC1)C
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | NaOH | 1 N | [OH-].[Na+]
product | 1-methyl-3-(4-nitro-phenoxymethyl)-piperidine | 6.0 g | CN1CC(CCC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O3
